US06995263B2
d] {6-[2-Methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester
In analogy to the procedure described in example 5 f], (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 6 b]) was reacted with [2-methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol in the presence of tributylphosphine and N,N,N′,N′-tetramethyl azodicarboxamide to yield the title compound as colorless solid.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | [2-methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol | CC1=NC(=CC(=C1CO)C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C15H11F6NO2
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
product | {6-[2-Methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C(=NC(=CC1C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)C)=O | C27H22F6N2O4
